Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15],4.39706689828
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][H:9],-4.065778878
[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],0.776694222737
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7].[O:8]=[C:9]([H:10])[H:11],0.0720884451594
[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.056745923209999
[C:1]#[C:2][C:3][O:8][H:9].[C:4]=[C:5]([H:6])[H:7]>>[C:1]#[C:2][C:3]([C:4]=[C:5]([H:6])[H:7])[O:8][H:9],-3.78212144639
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]1>>[H:1][O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[O:9],-1.64421332
[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.14779416328
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][C:9]([H:10])([H:11])[H:12],-2.91575276906
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1],3.76530077244
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],3.52957713494
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.30291508163
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-3.66898303562
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[O:7],0.94302637964
[C:2]#[C:3][C:4]([H:5])[C:7]#[C:8][H:9].[H:1][C:6][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])[H:10],-7.562550740630001
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],2.99821499598
[C:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:8]([H:9])([H:10])[O:11][H:12].[H:7]>>[C:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-5.032251797780001
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3]([O:4][H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.72590773863
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.8364440276400005
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12],3.69681748815
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2][H:3].[O:4]=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.95187856331
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:7][H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]=[O:7])[O:9][H:10].[H:8],1.82444244733
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.32431504269
[H:6].[O:1]=[C:2]=[C:3]([C:4]=[O:5])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[H:10],-4.07066119893
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6][O:7][H:8]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],-4.59848052458
[C:4](\[H:5])([O:6][H:7])=[C:8](/[H:9])[O:10][H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[O:10][H:11],-2.92970372607
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.23920508719
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.65614551985
[C:2]([H:3])#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.67612076762
